US05767131
N-(2-(4,4-Diphenylpiperidin-1-yl)ethyl)acetoacetamide.
Diketene (1.50 mL, 19.2 mmol, 1.50 equiv) was added at 0° C. to a stirred solution of 1-(2-aminoethyl)-4,4-diphenylpiperidine (3.60 g, 12.8 mmol, 1.00 equiv) in anhydrous THF (40 mL) under argon, and stirring was continued at room temperature for 1 hour. The mixture was concentrated to give 4.10 g (88%) of white solid, which was characterized spectroscopically and used for the next reaction without purification.

reactant | Diketene | 19.2 mmol, 1.50 mL, 1.50 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 1-(2-aminoethyl)-4,4-diphenylpiperidine | 12.8 mmol, 3.60 g, 1.00 equiv | NCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H24N2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(2-(4,4-Diphenylpiperidin-1-yl)ethyl)acetoacetamide | 4.10 g, 88% | C1(=CC=CC=C1)C1(CCN(CC1)CCNC(CC(=O)C)=O)C1=CC=CC=C1 | C23H28N2O2
